US04780452
7-Chloro-3H-imidazo[4,5]pyridine (0.013 mole, 2 g) and uridine (0.014 mole, 3.4 g), were suspended in 32.3 ml of 0.01M potassium phosphate, pH 7.4. The enzyme catalysts purine nucleoside phosphorylase (970 units) and uridine phosphorylase (150 units) were added and the suspension mixed for two days at 37° C. The reaction was filtered and the filtrate lyophilized. The cake was extracted three times with acetone. These filtrates were combined and solvent removed in vacuo. The lyophilized powder was twice extracted with acetone and once extracted with methanol. These filtrates were combined with the extractions with methanol. These filtrates were combined with the extractions from above and solvent removed under vacuum. This powder was dissolved in 150 ml 30% n-PrOH/water (v/v) and chromatographed on a (7.5×90) cm column containing P-2 resin. Fractions containing product were pooled, dried in vacuo, resulting in 1.4 g of analytically pure 7-chloro-3-β-D-ribofuranosyl)-3H-imidazo[4,5-b]pyridine which had an Rf value of 0.25 on cellulose developed in (NH4)2SO4 :1M NaOAc:i-PrOH (79:19:2). M.p. 198° C.; UV λmax nm (ε×10-3) at pH 1 281, 284, 250; at pH 13, 279, 257; NMR (Me2SO-d6)δ 8.80 (s, 1H, H2), 8.34 (d, 1H, J=5.27, H5), 7.49 (d, 1H, J=5.26, H6), 6.07 (d, 1H, J=5.58, H1'), 4.5 (b, 1H, H2'), 4.1 (b, 1H, H3'), 4.0 (b, 1H, H4'), 3.5 (b, 2H, H5').

reactant | 7-Chloro-3H-imidazo[4,5]pyridine | 0.013 mole, 2 g | ClC1=CC=NC2=C1N=CN2 | C6H4ClN3
reactant | uridine | 0.014 mole, 3.4 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
solvent | potassium phosphate | 0.01M, 32.3 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 3H-imidazo[4,5-b]pyridine | N1=CNC2=NC=CC=C21 | C6H5N3
